**************************************************
* Manufacturer:           Würth Elektronik
* Kinds:                  Offline Flyback Transformers for Linear Technology
* Matchcode:              WE-OLLT
* Library Type:           LTspice
* Version:                rev24a
* Created/modified by:    Roberta      
* Date and Time:          2024-05-22
* Team:                   eiSos EDA Service  
* Contact:                libraries@we-online.com
**************************************************	
* Copyright(C) 2024 Würth Elektronik eiSos GmbH & Co. KG	
* All Rights Reserved.	
**************************************************	
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy	
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on	
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.	
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.	
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.	
**************************************************	

.subckt	OLLT_ER2814_750312646		1  3  2  4  5  6  12  9  11  8  10  7	
.param RxLkg=2451.45ohm				
.param Leakage=2.5uh				
Rlkg	1	1a	{RxLkg/2}	
L_Lkg	1	1a	{Leakage/2}	
Rlkg2	2	2a	{RxLkg/2}	
L_Lkg2	2	2a	{Leakage/2}	
Lpri1	1a	1b	48.75uH	
Rser1	1b	3	51mohm	
Lpri2	2a	2b	48.75uH	
Rser2	2b	4	52mohm	
Laux1	5	5a	5.556uH	
Rser3	5a	6	133mohm	
Lsec1	12	12a	12.5uH	
Rser5	12a	9	20mohm	
Lsec2	11	11a	12.5uH	
Rser6	11a	8	19mohm	
Lsec3	10	10a	12.5uH	
Rser7	10a	7	19mohm	
K Lpri1 Lpri2 Laux1  Lsec1 Lsec2 Lsec3      1				
.param Cprm1=26pf				
.param Cprm2=26pf				
.param Rdmp1=49028.95ohm				
.param Rdmp2=49028.95ohm				
Cpri1	1	3a	{Cprm1}	
Rser13	3a	3	10mohm	
Cpri2	2	4a	{Cprm2}	
Rser14	4a	4	10mohm	
Rdmp1	1	3	{Rdmp1}	
Rdmp2	2	4	{Rdmp2}	
Rg3	1	0	20meg	
Rg4	2	0	20meg	
Rg5	5	0	20meg	
Rg7	3	0	20meg	
Rg8	4	0	20meg	
Rg9	6	0	20meg	
Rg11	12	0	20meg	
Rg12	11	0	20meg	
Rg13	10	0	20meg	
Rg19	9	0	20meg	
Rg20	8	0	20meg	
Rg21	7	0	20meg	
.ends				
.subckt	OLLT_ETD34_750813390		2  4  6  7  14  10  13  9  12  8	
.param RxLkg=422.58ohm				
.param Leakage=1uh				
Rlkg	2	2a	{RxLkg}	
L_Lkg	2	2a	{Leakage}	
Lpri1	2a	2b	99uH	
Rser1	2b	4	150mohm	
Laux1	6	6a	4.938uH	
Rser3	6a	7	44mohm	
Lsec1	14	14a	100uH	
Rser5	14a	10	254mohm	
Lsec2	13	13a	100uH	
Rser6	13a	9	259mohm	
Lsec3	12	12a	100uH	
Rser7	12a	8	251mohm	
K Lpri1  Laux1  Lsec1 Lsec2 Lsec3      1				
.param Cprm1=140pf				
.param Rdmp1=42257.56ohm				
Cpri1	2	4a	{Cprm1}	
Rser13	4a	4	10mohm	
Rdmp1	2	4	{Rdmp1}	
Rg3	2	0	20meg	
Rg5	6	0	20meg	
Rg7	4	0	20meg	
Rg9	7	0	20meg	
Rg11	14	0	20meg	
Rg12	13	0	20meg	
Rg13	12	0	20meg	
Rg19	10	0	20meg	
Rg20	9	0	20meg	
Rg21	8	0	20meg	
.ends				
.subckt	OLLT_ER2814_750811291		4  2  6  5  9  11	
.param RxLkg=2143.73ohm				
.param Leakage=5uh				
Rlkg	4	4a	{RxLkg}	
L_Lkg	4	4a	{Leakage}	
Lpri1	4a	4b	395uH	
Rser1	4b	2	550mohm	
Laux1	6	6a	23.795uH	
Rser3	6a	5	1100mohm	
Lsec1	9	9a	400uH	
Rser5	9a	11	1230mohm	
K Lpri1  Laux1  Lsec1        1				
.param Cprm1=34pf				
.param Rdmp1=171498.29ohm				
Cpri1	4	2a	{Cprm1}	
Rser13	2a	2	10mohm	
Rdmp1	4	2	{Rdmp1}	
Rg3	4	0	20meg	
Rg5	6	0	20meg	
Rg7	2	0	20meg	
Rg9	5	0	20meg	
Rg11	9	0	20meg	
Rg19	11	0	20meg	
.ends				
.subckt	OLLT_RM10_750317589		8  10  2  1  7  4  6  5	
.param RxLkg=3154.4ohm				
.param Leakage=6uh				
Rlkg	8	8a	{RxLkg}	
L_Lkg	8	8a	{Leakage}	
Lpri1	8a	8b	664uH	
Rser1	8b	10	810mohm	
Laux1	2	2a	10.469uH	
Rser3	2a	1	125mohm	
Lsec1	7	7a	10.469uH	
Rser5	7a	4	28mohm	
Lsec2	6	6a	10.469uH	
Rser6	6a	5	29mohm	
K Lpri1  Laux1  Lsec1 Lsec2       1				
.param Cprm1=13.5pf				
.param Rdmp1=352241.09ohm				
Cpri1	8	10a	{Cprm1}	
Rser13	10a	10	10mohm	
Rdmp1	8	10	{Rdmp1}	
Rg3	8	0	20meg	
Rg5	2	0	20meg	
Rg7	10	0	20meg	
Rg9	1	0	20meg	
Rg11	7	0	20meg	
Rg12	6	0	20meg	
Rg19	4	0	20meg	
Rg20	5	0	20meg	
.ends				
.subckt	OLLT_RM10_750317464		2  10  8  9  7  4  6  5	
.param RxLkg=9782.32ohm				
.param Leakage=8uh				
Rlkg	2	2a	{RxLkg}	
L_Lkg	2	2a	{Leakage}	
Lpri1	2a	2b	432uH	
Rser1	2b	10	560mohm	
Laux1	8	8a	6.875uH	
Rser3	8a	9	175mohm	
Lsec1	7	7a	27.5uH	
Rser5	7a	4	90mohm	
Lsec2	6	6a	27.5uH	
Rser6	6a	5	90mohm	
K Lpri1  Laux1  Lsec1 Lsec2       1				
.param Cprm1=3.8pf				
.param Rdmp1=538027.4ohm				
Cpri1	2	10a	{Cprm1}	
Rser13	10a	10	10mohm	
Rdmp1	2	10	{Rdmp1}	
Rg3	2	0	20meg	
Rg5	8	0	20meg	
Rg7	10	0	20meg	
Rg9	9	0	20meg	
Rg11	7	0	20meg	
Rg12	6	0	20meg	
Rg19	4	0	20meg	
Rg20	5	0	20meg	
.ends				
.subckt	OLLT_RM10_750317463		2  10  8  9  7  4  6  5	
.param RxLkg=6154.57ohm				
.param Leakage=10uh				
Rlkg	2	2a	{RxLkg}	
L_Lkg	2	2a	{Leakage}	
Lpri1	2a	2b	430uH	
Rser1	2b	10	615mohm	
Laux1	8	8a	6.875uH	
Rser3	8a	9	200mohm	
Lsec1	7	7a	6.875uH	
Rser5	7a	4	30mohm	
Lsec2	6	6a	6.875uH	
Rser6	6a	5	30mohm	
K Lpri1  Laux1  Lsec1 Lsec2       1				
.param Cprm1=15pf				
.param Rdmp1=270801.01ohm				
Cpri1	2	10a	{Cprm1}	
Rser13	10a	10	10mohm	
Rdmp1	2	10	{Rdmp1}	
Rg3	2	0	20meg	
Rg5	8	0	20meg	
Rg7	10	0	20meg	
Rg9	9	0	20meg	
Rg11	7	0	20meg	
Rg12	6	0	20meg	
Rg19	4	0	20meg	
Rg20	5	0	20meg	
.ends				
.subckt	OLLT_ETD34_750811351		2  4  6  7  14  10  13  9  12  8	
.param RxLkg=1301.2ohm				
.param Leakage=1.6uh				
Rlkg	2	2a	{RxLkg}	
L_Lkg	2	2a	{Leakage}	
Lpri1	2a	2b	178.4uH	
Rser1	2b	4	135mohm	
Laux1	6	6a	5uH	
Rser3	6a	7	50mohm	
Lsec1	14	14a	11.25uH	
Rser5	14a	10	72mohm	
Lsec2	13	13a	11.25uH	
Rser6	13a	9	72mohm	
Lsec3	12	12a	11.25uH	
Rser7	12a	8	72mohm	
K Lpri1  Laux1  Lsec1 Lsec2 Lsec3      1				
.param Cprm1=21pf				
.param Rdmp1=146385.27ohm				
Cpri1	2	4a	{Cprm1}	
Rser13	4a	4	10mohm	
Rdmp1	2	4	{Rdmp1}	
Rg3	2	0	20meg	
Rg5	6	0	20meg	
Rg7	4	0	20meg	
Rg9	7	0	20meg	
Rg11	14	0	20meg	
Rg12	13	0	20meg	
Rg13	12	0	20meg	
Rg19	10	0	20meg	
Rg20	9	0	20meg	
Rg21	8	0	20meg	
.ends				
.subckt	OLLT_ETD34_750811330		2  4  6  7  14  10  13  9  12  8	
.param RxLkg=730.3ohm				
.param Leakage=0.8uh				
Rlkg	2	2a	{RxLkg}	
L_Lkg	2	2a	{Leakage}	
Lpri1	2a	2b	299.2uH	
Rser1	2b	4	150mohm	
Laux1	6	6a	8.333uH	
Rser3	6a	7	33mohm	
Lsec1	14	14a	8.333uH	
Rser5	14a	10	21mohm	
Lsec2	13	13a	8.333uH	
Rser6	13a	9	21mohm	
Lsec3	12	12a	8.333uH	
Rser7	12a	8	21mohm	
K Lpri1  Laux1  Lsec1 Lsec2 Lsec3      1				
.param Cprm1=10pf				
.param Rdmp1=273861.43ohm				
Cpri1	2	4a	{Cprm1}	
Rser13	4a	4	10mohm	
Rdmp1	2	4	{Rdmp1}	
Rg3	2	0	20meg	
Rg5	6	0	20meg	
Rg7	4	0	20meg	
Rg9	7	0	20meg	
Rg11	14	0	20meg	
Rg12	13	0	20meg	
Rg13	12	0	20meg	
Rg19	10	0	20meg	
Rg20	9	0	20meg	
Rg21	8	0	20meg	
.ends				
.subckt	OLLT_ER2814_750817251		1  3  2  4  5  6  11  9  10  8	
.param RxLkg=5070.93ohm				
.param Leakage=3uh				
Rlkg	1	1a	{RxLkg/2}	
L_Lkg	1	1a	{Leakage/2}	
Rlkg2	2	2a	{RxLkg/2}	
L_Lkg2	2	2a	{Leakage/2}	
Lpri1	1a	1b	61uH	
Rser1	1b	3	120mohm	
Lpri2	2a	2b	61uH	
Rser2	2b	4	100mohm	
Laux1	5	5a	15.625uH	
Rser3	5a	6	130mohm	
Lsec1	11	11a	15.625uH	
Rser5	11a	9	37mohm	
Lsec2	10	10a	15.625uH	
Rser6	10a	8	37mohm	
K Lpri1 Lpri2 Laux1  Lsec1 Lsec2       1				
.param Cprm1=7pf				
.param Cprm2=7pf				
.param Rdmp1=105644.3ohm				
.param Rdmp2=105644.3ohm				
Cpri1	1	3a	{Cprm1}	
Rser13	3a	3	10mohm	
Cpri2	2	4a	{Cprm2}	
Rser14	4a	4	10mohm	
Rdmp1	1	3	{Rdmp1}	
Rdmp2	2	4	{Rdmp2}	
Rg3	1	0	20meg	
Rg4	2	0	20meg	
Rg5	5	0	20meg	
Rg7	3	0	20meg	
Rg8	4	0	20meg	
Rg9	6	0	20meg	
Rg11	11	0	20meg	
Rg12	10	0	20meg	
Rg19	9	0	20meg	
Rg20	8	0	20meg	
.ends				
.subckt	OLLT_ER2814_750817220		3  1  6  5  11  9  10  8	
.param RxLkg=7115.18ohm				
.param Leakage=18uh				
Rlkg	3	3a	{RxLkg}	
L_Lkg	3	3a	{Leakage}	
Lpri1	3a	3b	982uH	
Rser1	3b	1	1300mohm	
Laux1	6	6a	52.9uH	
Rser3	6a	5	794mohm	
Lsec1	11	11a	4.9uH	
Rser5	11a	9	20mohm	
Lsec2	10	10a	4.9uH	
Rser6	10a	8	20mohm	
K Lpri1  Laux1  Lsec1 Lsec2       1				
.param Cprm1=16pf				
.param Rdmp1=395287.75ohm				
Cpri1	3	1a	{Cprm1}	
Rser13	1a	1	10mohm	
Rdmp1	3	1	{Rdmp1}	
Rg3	3	0	20meg	
Rg5	6	0	20meg	
Rg7	1	0	20meg	
Rg9	5	0	20meg	
Rg11	11	0	20meg	
Rg12	10	0	20meg	
Rg19	9	0	20meg	
Rg20	8	0	20meg	
.ends				
.subckt	OLLT_ER2814_750811290		4  2  6  5  9  11  8  10	
.param RxLkg=2746.81ohm				
.param Leakage=8uh				
Rlkg	4	4a	{RxLkg}	
L_Lkg	4	4a	{Leakage}	
Lpri1	4a	4b	453uH	
Rser1	4b	2	600mohm	
Laux1	6	6a	12.806uH	
Rser3	6a	5	110mohm	
Lsec1	9	9a	461uH	
Rser5	9a	11	460mohm	
Lsec2	8	8a	461uH	
Rser6	8a	10	570mohm	
K Lpri1  Laux1  Lsec1 Lsec2       1				
.param Cprm1=46pf				
.param Rdmp1=158284.79ohm				
Cpri1	4	2a	{Cprm1}	
Rser13	2a	2	10mohm	
Rdmp1	4	2	{Rdmp1}	
Rg3	4	0	20meg	
Rg5	6	0	20meg	
Rg7	2	0	20meg	
Rg9	5	0	20meg	
Rg11	9	0	20meg	
Rg12	8	0	20meg	
Rg19	11	0	20meg	
Rg20	10	0	20meg	
.ends				
.subckt	OLLT_ER2814_750811248		1  3  2  4  5  6  11  9  10  8	
.param RxLkg=2951.21ohm				
.param Leakage=3.6uh				
Rlkg	1	1a	{RxLkg/2}	
L_Lkg	1	1a	{Leakage/2}	
Rlkg2	2	2a	{RxLkg/2}	
L_Lkg2	2	2a	{Leakage/2}	
Lpri1	1a	1b	73.2uH	
Rser1	1b	3	155mohm	
Lpri2	2a	2b	73.2uH	
Rser2	2b	4	125mohm	
Laux1	5	5a	18.75uH	
Rser3	5a	6	185mohm	
Lsec1	11	11a	18.75uH	
Rser5	11a	9	40mohm	
Lsec2	10	10a	18.75uH	
Rser6	10a	8	40mohm	
K Lpri1 Lpri2 Laux1  Lsec1 Lsec2       1				
.param Cprm1=24.8pf				
.param Cprm2=25.3pf				
.param Rdmp1=61483.48ohm				
.param Rdmp2=61483.48ohm				
Cpri1	1	3a	{Cprm1}	
Rser13	3a	3	10mohm	
Cpri2	2	4a	{Cprm2}	
Rser14	4a	4	10mohm	
Rdmp1	1	3	{Rdmp1}	
Rdmp2	2	4	{Rdmp2}	
Rg3	1	0	20meg	
Rg4	2	0	20meg	
Rg5	5	0	20meg	
Rg7	3	0	20meg	
Rg8	4	0	20meg	
Rg9	6	0	20meg	
Rg11	11	0	20meg	
Rg12	10	0	20meg	
Rg19	9	0	20meg	
Rg20	8	0	20meg	
.ends				
.subckt	OLLT_EP13_750316022		8  10  7  6  1  4  2  5	
.param RxLkg=4268.05ohm				
.param Leakage=23uh				
Rlkg	8	8a	{RxLkg}	
L_Lkg	8	8a	{Leakage}	
Lpri1	8a	8b	3277uH	
Rser1	8b	10	4550mohm	
Laux1	7	7a	91.667uH	
Rser3	7a	6	695mohm	
Lsec1	1	1a	5.729uH	
Rser5	1a	4	24mohm	
Lsec2	2	2a	5.729uH	
Rser6	2a	5	24mohm	
K Lpri1  Laux1  Lsec1 Lsec2       1				
.param Cprm1=22pf				
.param Rdmp1=612373.06ohm				
Cpri1	8	10a	{Cprm1}	
Rser13	10a	10	10mohm	
Rdmp1	8	10	{Rdmp1}	
Rg3	8	0	20meg	
Rg5	7	0	20meg	
Rg7	10	0	20meg	
Rg9	6	0	20meg	
Rg11	1	0	20meg	
Rg12	2	0	20meg	
Rg19	4	0	20meg	
Rg20	5	0	20meg	
.ends				
.subckt	OLLT_EE20106_7508111518		8  6  10  9  3  2	
.param RxLkg=2097.33ohm				
.param Leakage=12.5uh				
Rlkg	8	8a	{RxLkg}	
L_Lkg	8	8a	{Leakage}	
Lpri1	8a	8b	2387.5uH	
Rser1	8b	6	1400mohm	
Laux1	10	10a	24uH	
Rser3	10a	9	320mohm	
Lsec1	3	3a	384uH	
Rser5	3a	2	425mohm	
K Lpri1  Laux1  Lsec1        1				
.param Cprm1=37pf				
.param Rdmp1=402686.83ohm				
Cpri1	8	6a	{Cprm1}	
Rser13	6a	6	10mohm	
Rdmp1	8	6	{Rdmp1}	
Rg3	8	0	20meg	
Rg5	10	0	20meg	
Rg7	6	0	20meg	
Rg9	9	0	20meg	
Rg11	3	0	20meg	
Rg19	2	0	20meg	
.ends				
.subckt	OLLT_EE20106_7508111417		3  1  5  4  10  7  9  8	
.param RxLkg=4225.76ohm				
.param Leakage=5uh				
Rlkg	3	3a	{RxLkg}	
L_Lkg	3	3a	{Leakage}	
Lpri1	3a	3b	695uH	
Rser1	3b	1	1340mohm	
Laux1	5	5a	32.632uH	
Rser3	5a	4	2000mohm	
Lsec1	10	10a	43.75uH	
Rser5	10a	7	131mohm	
Lsec2	9	9a	43.75uH	
Rser6	9a	8	105mohm	
K Lpri1  Laux1  Lsec1 Lsec2       1				
.param Cprm1=5pf				
.param Rdmp1=591605.88ohm				
Cpri1	3	1a	{Cprm1}	
Rser13	1a	1	10mohm	
Rdmp1	3	1	{Rdmp1}	
Rg3	3	0	20meg	
Rg5	5	0	20meg	
Rg7	1	0	20meg	
Rg9	4	0	20meg	
Rg11	10	0	20meg	
Rg12	9	0	20meg	
Rg19	7	0	20meg	
Rg20	8	0	20meg	
.ends				
.subckt	OLLT_EE20106_7508111324		8  6  10  9  3  2	
.param RxLkg=4640.2ohm				
.param Leakage=30uh				
Rlkg	8	8a	{RxLkg}	
L_Lkg	8	8a	{Leakage}	
Lpri1	8a	8b	2720uH	
Rser1	8b	6	1725mohm	
Laux1	10	10a	27.5uH	
Rser3	10a	9	410mohm	
Lsec1	3	3a	27.5uH	
Rser5	3a	2	37mohm	
K Lpri1  Laux1  Lsec1        1				
.param Cprm1=38pf				
.param Rdmp1=425351.22ohm				
Cpri1	8	6a	{Cprm1}	
Rser13	6a	6	10mohm	
Rdmp1	8	6	{Rdmp1}	
Rg3	8	0	20meg	
Rg5	10	0	20meg	
Rg7	6	0	20meg	
Rg9	9	0	20meg	
Rg11	3	0	20meg	
Rg19	2	0	20meg	
.ends				
.subckt	OLLT_EE1675_750813144		2  1  4  5  10  7  9  8	
.param RxLkg=5654.58ohm				
.param Leakage=15uh				
Rlkg	2	2a	{RxLkg}	
L_Lkg	2	2a	{Leakage}	
Lpri1	2a	2b	585uH	
Rser1	2b	1	2400mohm	
Laux1	4	4a	19.133uH	
Rser3	4a	5	1550mohm	
Lsec1	10	10a	37.5uH	
Rser5	10a	7	570mohm	
Lsec2	9	9a	37.5uH	
Rser6	9a	8	420mohm	
K Lpri1  Laux1  Lsec1 Lsec2       1				
.param Cprm1=29.32pf				
.param Rdmp1=226183.36ohm				
Cpri1	2	1a	{Cprm1}	
Rser13	1a	1	10mohm	
Rdmp1	2	1	{Rdmp1}	
Rg3	2	0	20meg	
Rg5	4	0	20meg	
Rg7	1	0	20meg	
Rg9	5	0	20meg	
Rg11	10	0	20meg	
Rg12	9	0	20meg	
Rg19	7	0	20meg	
Rg20	8	0	20meg	
.ends				
.subckt	OLLT_EE1675_750813134		2  1  4  5  10  7  9  8	
.param RxLkg=6160.79ohm				
.param Leakage=15uh				
Rlkg	2	2a	{RxLkg}	
L_Lkg	2	2a	{Leakage}	
Lpri1	2a	2b	585uH	
Rser1	2b	1	1850mohm	
Laux1	4	4a	15.497uH	
Rser3	4a	5	1350mohm	
Lsec1	10	10a	9.375uH	
Rser5	10a	7	140mohm	
Lsec2	9	9a	9.375uH	
Rser6	9a	8	105mohm	
K Lpri1  Laux1  Lsec1 Lsec2       1				
.param Cprm1=24.7pf				
.param Rdmp1=246431.55ohm				
Cpri1	2	1a	{Cprm1}	
Rser13	1a	1	10mohm	
Rdmp1	2	1	{Rdmp1}	
Rg3	2	0	20meg	
Rg5	4	0	20meg	
Rg7	1	0	20meg	
Rg9	5	0	20meg	
Rg11	10	0	20meg	
Rg12	9	0	20meg	
Rg19	7	0	20meg	
Rg20	8	0	20meg	
.ends				
.subckt	OLLT_EE1366_7508110210		2  1  3  4  8  5  7  6	
.param RxLkg=4084.32ohm				
.param Leakage=15uh				
Rlkg	2	2a	{RxLkg}	
L_Lkg	2	2a	{Leakage}	
Lpri1	2a	2b	1985uH	
Rser1	2b	1	5100mohm	
Laux1	3	3a	125uH	
Rser3	3a	4	1350mohm	
Lsec1	8	8a	45uH	
Rser5	8a	5	210mohm	
Lsec2	7	7a	45uH	
Rser6	7a	6	165mohm	
K Lpri1  Laux1  Lsec1 Lsec2       1				
.param Cprm1=16.86pf				
.param Rdmp1=544576.24ohm				
Cpri1	2	1a	{Cprm1}	
Rser13	1a	1	10mohm	
Rdmp1	2	1	{Rdmp1}	
Rg3	2	0	20meg	
Rg5	3	0	20meg	
Rg7	1	0	20meg	
Rg9	4	0	20meg	
Rg11	8	0	20meg	
Rg12	7	0	20meg	
Rg19	5	0	20meg	
Rg20	6	0	20meg	
.ends				
.subckt	OLLT_EE1366_750817020		3  1  4  5  8  7	
.param RxLkg=11410.89ohm				
.param Leakage=50uh				
Rlkg	3	3a	{RxLkg}	
L_Lkg	3	3a	{Leakage}	
Lpri1	3a	3b	3950uH	
Rser1	3b	1	24800mohm	
Laux1	4	4a	62.5uH	
Rser3	4a	5	400mohm	
Lsec1	8	8a	45.918uH	
Rser5	8a	7	235mohm	
K Lpri1  Laux1  Lsec1        1				
.param Cprm1=12pf				
.param Rdmp1=912871.43ohm				
Cpri1	3	1a	{Cprm1}	
Rser13	1a	1	10mohm	
Rdmp1	3	1	{Rdmp1}	
Rg3	3	0	20meg	
Rg5	4	0	20meg	
Rg7	1	0	20meg	
Rg9	5	0	20meg	
Rg11	8	0	20meg	
Rg19	7	0	20meg	
.ends				
.subckt	OLLT_EE1366_750813002		2  1  3  4  8  5  7  6	
.param RxLkg=4335.52ohm				
.param Leakage=20uh				
Rlkg	2	2a	{RxLkg}	
L_Lkg	2	2a	{Leakage}	
Lpri1	2a	2b	1980uH	
Rser1	2b	1	6250mohm	
Laux1	3	3a	125uH	
Rser3	3a	4	1700mohm	
Lsec1	8	8a	5uH	
Rser5	8a	5	31.5mohm	
Lsec2	7	7a	5uH	
Rser6	7a	6	27mohm	
K Lpri1  Laux1  Lsec1 Lsec2       1				
.param Cprm1=26.6pf				
.param Rdmp1=433552.35ohm				
Cpri1	2	1a	{Cprm1}	
Rser13	1a	1	10mohm	
Rdmp1	2	1	{Rdmp1}	
Rg3	2	0	20meg	
Rg5	3	0	20meg	
Rg7	1	0	20meg	
Rg9	4	0	20meg	
Rg11	8	0	20meg	
Rg12	7	0	20meg	
Rg19	5	0	20meg	
Rg20	6	0	20meg	
.ends	